US04866068
(a) ethyl 2-methyl-2-(2-benzothiazolyl)propionate
3.8 grams of sodium hydroxide was dissolved in 50 ml water. The solution was cooled and to this cooled solution was added 50 ml ethanol. 15 grams of 2-mercaptobenzothiazole was added and the solution diluted with 25 ml ethanol and 25 ml water. Following the addition of 17.5 grams of ethyl 2-bromoisobutyrate the mixture was stirred overnight. The reaction mixture was then concentrated in vacuo and the residue partitioned between ether and water. The ether fraction was washed, (H2O and aqueous Na2CO3) dried (MgSO4), filtered and concentrated in vacuo. This mixture was then partitioned between ether and 10% sodium hydroxide. The ether fraction was washed with 2×25 ml 10% sodium hydroxide and then brine. The ether layer was then dried (MgSO4), filtered, and concentrated to yield a solid which was shown by TLC (CHCl3 and 3% isopropanol/hexane) and 1H NMR to be the titled compound. (b) 2-methyl-2-(2-benzothiazolyl)propionic acid

reactant | sodium hydroxide | 3.8 grams | [OH-].[Na+]
reactant | 2-mercaptobenzothiazole | 15 grams | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | ethyl 2-bromoisobutyrate | 17.5 grams | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | isopropanol hexane | C(C)(C)O.CCCCCC
product | ethyl 2-methyl-2-(2-benzothiazolyl)propionate | CC(C(=O)OCC)(C)C=1SC2=C(N1)C=CC=C2 | C13H15NO2S
